US08003006B2
30 g of 2,3-difluorophenol was dissolved in 300 ml of DMF, and 56.8 g of (trans-4-ethylcyclohexyl)methyl bromide and 73.4 g of tripotassium phosphate were added thereto, and then stirred for 1 hours at 100 to 110° C. Water and toluene were added thereto, and the organic layer was fractioned while the aqueous layer was extracted with toluene. The organic layers were combined, washed with saturated saline, and then subjected to column chromatography. Then, the solvent was evaporated under reduced pressure. The residue was purified by recrystallization, to thereby obtain 37 g of 2,3-difluoro-1-(trans-4-ethylcyclohexyl)methoxybenzene.

reactant | 2,3-difluorophenol | 30 g | FC1=C(C=CC=C1F)O | C6H4F2O
reactant | (trans-4-ethylcyclohexyl)methyl bromide | 56.8 g | C(C)[C@@H]1CC[C@H](CC1)CBr | C9H17Br
reactant | tripotassium phosphate | 73.4 g | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
reactant | Water | O | H2O
solvent | DMF | 300 ml | CN(C)C=O | C3H7NO
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 2,3-difluoro-1-(trans-4-ethylcyclohexyl)methoxybenzene | 37 g | FC1=C(C=CC=C1F)OC[C@@H]1CC[C@H](CC1)CC | C15H20F2O
